US08314097B2
A mixture of 4-bromo-3-trifluoromethoxybenzonitrile (10.0 g, 37.6 mmol), K2CO3 (15.6 g, 113 mmol), trimethylboroxine (5.5 mL, 39.5 mmol) and DMF (150 mL) is degassed for 10 min with nitrogen before Pd(PPh3)4 (4.34 g, 3.76 mmol) is added. The mixture is then sealed and heated to 120° C. for 14 h. The mixture is then concentrated and then partitioned between Et2O and 50% brine solution. The aqueous phase is further extracted with Et2O and the combined organic layers are dried (Na2SO4) and concentrated. The residue is purified via flash chromatography (10% EtOAc/hexanes) to give 4-methyl-3-trifluoromethoxybenzonitrile. H NMR (400 MHz, CDCl3) δ (ppm) 2.40 (s, 3H), 7.40 (d, J=7.7 Hz, 1H), 7.50 (s, 1H), 7.51 (dd, J=7.7, 1.5 Hz, 1H). MS (ESI) m/z 202.1.

reactant | 4-bromo-3-trifluoromethoxybenzonitrile | 37.6 mmol, 10.0 g | BrC1=C(C=C(C#N)C=C1)OC(F)(F)F | C8H3BrF3NO
reactant | K2CO3 | 113 mmol, 15.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxine | 39.5 mmol, 5.5 mL | CB1OB(OB(O1)C)C | C3H9B3O3
catalyst | Pd(PPh3)4 | 3.76 mmol, 4.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-methyl-3-trifluoromethoxybenzonitrile | CC1=C(C=C(C#N)C=C1)OC(F)(F)F | C9H6F3NO
